US07144908B2
vii) 1-(3-Iodophenyl)imidazolidin-2-one
A solution of 3-iodoaniline (1 g) in CH2Cl2 (5 ml) and diisopropylethylamine (2 ml) was treated with 2-chloroethylisocyanate (0.4 ml) and the mixture was stirred at 20° C. for 3 d. The mixture was diluted with EtOAc and washed with 2M HCl, dried and evaporated to dryness. The residue was dissolved in DMF (5 ml), treated with sodium hydride (60% oil dispersion, 182 mg), and the mixture was stirred for 20 h under nitrogen. The mixture was diluted with EtOAc, washed with 2M HCl, brine, dried and evaporated to dryness. The residue was crystallised from hot EtOAc/MeOH. Trituration in Et2O of the residue obtained by evaporation of the mother liquor gave the title compound (240 mg). LCMS RT=3.03 min.

reactant | 3-iodoaniline | 1 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 2-chloroethylisocyanate | 0.4 ml | ClCCN=C=O | C3H4ClNO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | diisopropylethylamine | 2 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-Iodophenyl)imidazolidin-2-one | 240 mg | IC=1C=C(C=CC1)N1C(NCC1)=O | C9H9IN2O
